US04175190
4.1 G. of diethyl 6-{3-azabicyclo[3.2.2]non-3-yl}-2,4-pyrimidine-dicarbamate-3-oxide are suspended in 50 ml. of dimethylformamide and warmed to 140° C. for 30 minutes under an argon atmosphere. After cooling the solution, the dimethylformamide is distilled off under reduced pressure and the residue is filtered over silica gel. Elution with chloroform and ethanol yields ethyl 5-{3-azabicyclo[3.2.2]non-3-yl}-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate, having a melting point of 210°-215° C. (decomposition). Analytically pure product is obtained by recrystallization from methylene chloride/ether.

reactant | diethyl 6-{3-azabicyclo[3.2.2]non-3-yl}-2,4-pyrimidine-dicarbamate-3-oxide | C12CN(CC(CC1)CC2)C2=CC(=[N+](C(=N2)NC(=O)OCC)[O-])NC(=O)OCC | C18H27N5O5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 5-{3-azabicyclo[3.2.2]non-3-yl}-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate | C12CN(CC(CC1)CC2)C2=NC=1N(C(=C2)NC(=O)OCC)OC(N1)=O | C16H21N5O4
